US05338740
D. Benzoic acid 5 -acetoxy-indan-1-yl ester
To a solution of acetic acid 1-hydroxy-indan-5-yl ester (2.3 grams, 11.9 mmol) in CH2Cl2 (18 mL) at 0° C. were added 4-N,N-dimethylaminopyridine (2.19 grams, 18 mmol) and benzoic anhydride (4.1 grams, 18 mmol). The reaction mixture was allowed to warm to 23° C. and was stirred for 17 hours, quenched with 10% HCl (25 mL) and diluted with CHCl3. The organic layer was separated and washed with saturated aqueous NaHCO3 (50 mL), dried (MgSO4) and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 20% ethyl acetate/hexanes to afford the desired product. 1H NMR (250 MHz, CDCl3): d 8.05 (d, 2 H), 7.50 (m, 4 H), 7.00 (s, 1 H), 6.95 (d, 1 H), 6.40 (dd, 1 H), 3.2 (m, 1 H), 2.95 (m, 1 H), 2.30 (s, 3 H), 2.25 (m, 1 H).

reactant | acetic acid 1-hydroxy-indan-5-yl ester | 11.9 mmol, 2.3 grams | OC1CCC2=CC(=CC=C12)OC(C)=O | C11H12O3
reactant | benzoic anhydride | 18 mmol, 4.1 grams | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | Benzoic acid 5 -acetoxy-indan-1-yl ester | C(C)(=O)OC=1C=C2CCC(C2=CC1)OC(C1=CC=CC=C1)=O | C18H16O4
